US08703793B2
3-Amino-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-one
10.0 g 1-Hydroxy-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-1-en-3-one are dissolved in 100 ml ethanole. 4.7 g of Ammonium acetate are added and the mixture is heated for four hours to reflux. Then the solvent is evaporated in vacuo, the residue is partitioned between saturated aqueous sodium bicarbonate solution and dichloromethane. The phases are separated and the aqueous phase is twice extracted with dichloromethane. The combined organic phases are dried with magnesium sulphate, the solvents are evaporated in vacuo and the residue is chromatographed on silica gel (cyclohexane/ethylacetate 90:10 to 50:50).

reactant | 1-Hydroxy-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-1-en-3-one | 10.0 g | OC(=CC(C(C)OC)=O)C1=CC=C(C=C1)C(F)(F)F | C13H13F3O3
reactant | Ammonium acetate | 4.7 g | C(C)(=O)[O-].[NH4+]
product | 3-Amino-4-methoxy-1-(4-trifluoromethyl-phenyl)-pent-2-en-1-one | NC(=CC(=O)C1=CC=C(C=C1)C(F)(F)F)C(C)OC | C13H14F3NO2
